US08466282B2
1-(5-methoxypentyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-[{[1-(5-methoxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (123 mg) was dissolved in 4M hydrogen chloride-ethyl acetate (5 ml), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated, and the residue was subjected to reversed-phase preparative HPLC and the eluted fraction was concentrated under reduced pressure. The residue was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. 4M Hydrogen chloride-ethyl acetate (1 ml) was added and the mixture was stirred for 5 min. The solvent was evaporated under reduced pressure to give the object product (76 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(5-methoxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 123 mg | COCCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C33H51N5O6
reactant | hydrogen chloride-ethyl acetate | 4M, 5 ml | C(C)(=O)OCC.Cl
product | 1-(5-methoxypentyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride | 76 mg | Cl.Cl.COCCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | InChI=1S/C28H43N5O4.2ClH/c1-21(2)20-33(23-17-22(18-29-19-23)27(34)31-12-15-37-16-13-31)28(35)26-30-24-9-5-6-10-25(24)32(26)11-7-4-8-14-36-3;;/h5-6,9-10,21-23,29H,4,7-8,11-20H2,1-3H3;2*1H/t22-,23+;;/m1../s1
